US05041673
(±)-(1R,2R,3R)-3-Tert-butoxycarbonylamino-1,2,3,4-tetrahydro-1-isopropyloxy-2-naphthalenol
Under argon to a solution of (±)-(1S,2R,3R)-3-tert-butoxycarbonylamino-1,2-epoxy-1,2,3,4-tetrahydro-naphthalene (96 mg) in methanol (4 ml) was added titanium isopropoxyde (0.19 ml). The mixture was warmed for 14 hours in an oil bath maintained at 96° C. Evaporation of the warm mixture under an argon flow gave a residue which was purified on a silica gel column (22 g, elution with ethyl acetate:cyclohexane, 1:4). After evaporation of solvents was recovered an oil which was crystallized from a pentane/diethyl ether mixture to afford the title compound as a white solid (56 mg).

reactant | (±)-(1S,2R,3R)-3-tert-butoxycarbonylamino-1,2-epoxy-1,2,3,4-tetrahydro-naphthalene | 96 mg | C(C)(C)(C)OC(=O)N[C@H]1[C@@H]2[C@H](C3=CC=CC=C3C1)O2 | C15H19NO3
solvent | methanol | 4 ml | CO | CH4O
catalyst | titanium | [Ti] | Ti
product | (±)-(1R,2R,3R)-3-Tert-butoxycarbonylamino-1,2,3,4-tetrahydro-1-isopropyloxy-2-naphthalenol | 56 mg | C(C)(C)(C)OC(=O)N[C@H]1[C@H]([C@@H](C2=CC=CC=C2C1)OC(C)C)O | C18H27NO4
